US06235738B1
4-(2-Hydroxyphenyl)-2-phenyl-pyrimidine
A solution of 3-bromo-chroman-4-one (2.5 g) and benzydamine hydrochloride (1.7 g) in dry ethanol (25 ml) was refluxed for 6 hours in the presence of DBU (1.7 g). The reaction mixture was cooled, then evaporated to dryness and the residue was partitioned between ethyl acetate and a diluted hydrochloric acid aqueous solution. The organic layer was washed with a diluted sodium carbonate aqueous solution, with water, dried and evaporated to dryness to give the crude title compound. This was purified through its hydrochloride, prepared by dissolving the free base in acetone and adding an HCI ethereal solution.

reactant | 3-bromo-chroman-4-one | 2.5 g | BrC1COC2=CC=CC=C2C1=O | C9H7BrO2
reactant | benzydamine hydrochloride | 1.7 g | CN(C)CCCOC=1C=2C=CC=CC2N(N1)CC=3C=CC=CC3.Cl
reactant | DBU | 1.7 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(2-Hydroxyphenyl)-2-phenyl-pyrimidine | OC1=C(C=CC=C1)C1=NC(=NC=C1)C1=CC=CC=C1 | C16H12N2O
